Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / Demerol
 
Attending: ___.
 
Chief Complaint:
Mechanical fall
C1 and T1 fractures
Alcohol use disorder
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with a history of dementia and alcoholism 
(s/p multiple failed detox) presents as OSH transfer with 
chronic C1 and T1 fracture after an unwitnessed fall while 
intoxicated. 

Patient is poor historian with inattention and poor 
understanding capacity but endorses bilateral ankle, feet, knee, 
shoulder, back and neck pain. She does not remember how she fell 
but was on the ground for about 1 hour. Endorses chronic urinary 
incontinence over the last year, as she soils herself nightly. 
No tingling or numbness. Endorses BLE weakness due to all of her 
falls. 

She drinks daily. There was concern for SI as patient stated she 
wanted to die, but on further questioning, patient denied. She 
was also thought to be going into benzo withdrawal. She was 
waiting a rehab bed but was able to be placed so was admitted to 
medicine. 

In the ED, initial VS:  
97.2 84 134/82 14 95% RA 

Exam notable for:  
anxious

Labs notable for: 
CBC: WBC 6.2, HGb 11.2, plt 260
Chem: Na 135, K 4.5, Cl 84, BUN 6, Cr 0.7
Ca 8.5, Mg 1.8, P 3.6 

UA: large leuks, negative nitrites, 91 WBC, no bacteria 

Bld cx x2 pending 

Imaging notable for:  
CT scan demonstrated chronic C1 fracture and possible small,
chronic T1 compression fracture.

CXR:
1. No pneumothorax or acute pulmonary disease. 
2. Distal right clavicular deformity and focal defect which may
be chronic, but correlation with physical examination is
recommended as there are no prior studies with which to compare. 


Consults:  
Orthopaedic surgery: c collar given neck pain as well as spine
clinic follow up in 2 week.

Vitals prior to transfer:  
98.0 86 121/73 18 98% RA 

On arrival to the floor, patient confirms much of the above 
story.  Regarding her fall, she was drunk on the day of her 
admission and believes that she just "tipped over."  Regarding 
her alcohol intake, she drinks about a half a gallon of wine per 
day.  She used to drink about ___ gallon of vodka, but has
recently cut back to just wine.  Her last drink was on ___,
prior to presentation at the ED.  Currently, she has about ___
out of 10 pain in her hips, as well as her neck, which has been
stable since arrival to the ED.  She is hoping to get her 
Ambien,
as well as some benzodiazepine to help her get some sleep.

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative less otherwise noted in the HPI. 
 
Past Medical History:
Dementia
Alcohol use disorder

 
Social History:
___
Family History:
Patient has a long family history of alcohol use
disorder.  Her mother and father both drank heavily.  She was
told her mother died of a heart attack, but she believes that
both her mother and father died from alcohol-related
complications.  She has 2 brothers, 1 older who drinks daily but
is still alive, and one younger who died after a liver 
transplant
for alcoholic cirrhosis.  She has 2 sisters both of whom drink,
one who passed away from alcohol-related complications as well.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================== 
VS: ___ 2208 Temp: 97.8 PO BP: 133/80 HR: 78 RR: 18 O2 sat:
96% O2 delivery: RA 
GENERAL: Pleasant, lying in bed comfortably, c-collar in place. 
Lying flat in bed speaking in full sentences.
HEENT: Pupils equal round and reactive, extraocular motions
intact.  Cervical collar in place.
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact 

DISCHARGE PHYSICAL EXAM:
==========================
24 HR Data (last updated ___ @ 234)
    Temp: 97.7 (Tm 97.8), BP: 114/71 (114-133/71-80), HR: 82
(78-82), RR: 18, O2 sat: 95% (95-96), O2 delivery: Ra  
GENERAL: Pleasant, lying in bed comfortably, c-collar in place. 
Teary at times during the interview
HEENT: Pupils equal round and reactive. Cervical collar in 
place.
EXT: Warm, well perfused, no lower extremity edema. R shoulder
with mild tenderness to palpation but no surrounding erythema 
NEURO: Alert, oriented x3, hand grip ___, dorsiflexion and
plantar flexion ___

 
Pertinent Results:
ADMISSION LABS:
====================

___ 02:10PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 02:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-LG*
___ 02:10PM URINE  RBC-4* WBC-91* BACTERIA-NONE YEAST-NONE 
EPI-4
___ 09:42AM   GLUCOSE-76 UREA N-6 CREAT-0.7 SODIUM-135 
POTASSIUM-4.5 CHLORIDE-94* TOTAL CO2-29 ANION GAP-12
___ 09:42AM   WBC-6.2 RBC-4.50 HGB-11.2 HCT-37.0 MCV-82 
MCH-24.9* MCHC-30.3* RDW-16.6* RDWSD-48.6*
___ 09:42AM   NEUTS-68.9 LYMPHS-16.2* MONOS-12.4 EOS-1.1 
BASOS-1.1* IM ___ AbsNeut-4.29 AbsLymp-1.01* AbsMono-0.77 
AbsEos-0.07 AbsBaso-0.07
___ 09:42AM   PLT COUNT-360

DISCHARGE LABS:
====================
___ 06:10AM BLOOD WBC-4.2 RBC-3.76* Hgb-9.5* Hct-31.6* 
MCV-84 MCH-25.3* MCHC-30.1* RDW-16.9* RDWSD-51.6* Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-83 UreaN-13 Creat-0.6 Na-139 
K-4.2 Cl-102 HCO3-26 AnGap-11
___ 06:10AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.8

IMAGING:
====================
___ PELVIC AND HIP XR
IMPRESSION:  
Minimal degenerative change of the left hip without fracture.  
Mild-to-moderate change of the right hip 

___ CHEST XR
IMPRESSION: 
1. No pneumothorax or acute pulmonary disease. 
2. Distal right clavicular deformity and focal defect which may 
be chronic, but correlation with physical examination is 
recommended as there are no prior studies with which to compare. 


 
Brief Hospital Course:
___ is a ___ female with a history of 
alcoholism, who presents to the hospital after a fall likely 
related to alcohol intoxication with chronic C1 and possible 
small T1 compression fracture now in a C-spine collar with 
planned follow-up with orthopedics in 2 weeks.

====================
ACUTE/ACTIVE ISSUES:  
====================

# Mechanical fall  
# C1 and T1 fracture
Patient presented with an unwitnessed fall after intoxication. 
She had a CT cervical spine on ___ at ___ that showed likely 
chronic C1 and possible small T1 compression fractures. Other 
imaging negative for acute injury or bleed. No symptoms or exam 
findings concerning for cord compression. Orthopedics consulted 
and felt that nothing to do at this moment. They recommended 
C-spine immobilization with ___ J collar with ortho follow-up 
in 2 weeks. Given vertebral compression fracture, patient also 
meets criteria for osteoporosis. She will begin calcium and 
vitamin D supplementation, as well as consideration for 
bisphosphonate therapy as an outpatient. 

# Alcohol use disorder
Patient drinks about ___ gallon of wine daily. Her last drink 
was on ___, and as such she was out of the window for 
withdrawal seizures. She had no signs or symptoms of withdrawal, 
nor has she ever undergone withdrawal, or alcohol withdrawal 
related seizures. The patient reported taking lorazepam nightly 
to help with sleep, and we continued this to avoid 
benzodiazepine withdrawal. She is motivated to work towards 
sobriety again. Patient was seen by social work and she is 
already connected with ___, who reports 
that patient is involved with their ___ services team. She has 
___ CM and RN through MVES. They are active with her and will 
continue to follow her throughout her rehab stay at ___ 
___. Patient was also given thiamine and folate during this 
admission.

# Suicidal ideation
Reportedly, the patient noted some passive suicidal ideation 
while in the ED. She denied any suicidal ideation subsequently, 
and felt that she was still intoxicated, and feeling overwhelmed 
in that moment.

# Assymptomatic bacteruria
E coli in urine with no symptoms. Patient was treated with 
nitrofurantoin while in the ED. She was asymptomatic on the day 
of discharge.

# Insomnia
Patient reports that she takes Ambien and lorazepam nightly for 
sleep. Trazodone is in her fill list but she states that she 
does not use this any more. She was continued on Ativan QHS:PRN. 
Please consider discontinuing some of these medications in light 
of her recent fall and alcohol use.

======================
CHRONIC/STABLE ISSUES:  
======================
 
# Hypothyroidism
Continued levothyroxine 50 mcg daily

====================
TRANSITIONAL ISSUES:
====================

Medication changes
- Patient was started on calcium and vitamin D supplementation

[] Please consider bisphosphonate therapy in light of her T1 
compression fracture
[] Patient reports takes Ativan 1mg QHS. There was a different 
fill history for Ativan 0.5 mg Q6H for anxiety which was 
continued on discharge
[] Patient reports motivation to quit drinking. She will look 
into joining AA.  Please consider pharmacological treatment for 
alcohol use disorder if patient feels she may benefit from same.
[] Patient to wear ___ collar for the next 2 weeks and 
follow-up with orthopedics afterwards

======================================
# CODE: full confirmed
# CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Gabapentin 200 mg PO TID 
4. Meclizine 12.5 mg PO DAILY:PRN Nausea 
5. Multivitamins 1 TAB PO DAILY 
6. Thiamine 200 mg PO DAILY 
7. LORazepam 0.5 mg PO Q6H:PRN anxiety 
8. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO DAILY osteoporosis Duration: 30 
Days  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Vitamin D 800 UNIT PO DAILY  
4.  Gabapentin 200 mg PO TID  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  LORazepam 0.5 mg PO Q6H:PRN anxiety  
7.  Meclizine 12.5 mg PO DAILY:PRN Nausea  
8.  Multivitamins 1 TAB PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  Thiamine 200 mg PO DAILY  
11.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Mechanical fall
C1 and T1 fractures
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital as you had a fall.

What did you receive in the hospital?
- You had imaging studies of the head and spine. We saw a 
fracture in your spine that could be new or chronic. Our 
orthopedics doctors saw ___ and wanted you to be in a C-spine 
collar for 2 weeks.  
- Our physiotherapist also evaluated you. They think you would 
benefit from going to rehab after discharge from hospital.

What should you do once you leave the hospital?
- Please follow-up with orthopedic doctors as below.
- Per our discussion this morning, please consider joining a 
program to help with quitting alcohol; your PCP should be able 
to help with this.

We wish you all the best!

Your ___ Care Team
 
Followup Instructions:
___